US04859661
To a stirred mixture of 50 ml of water, 50 ml of ether and 10.0 g of 4-sec-butylphenol was added dropwise, 7.5 ml of 61% nitric acid was added dropwise while cooling with ice. After, the temperature of the mixture was raised to room temperature and the reaction was continued for 4 days. The reaction mixture was extracted with 300 ml of ethyl acetate, washed with a brine and dried with anhydrous sodium sulfate. The drying agent was filtered off and the solvent was distilled away. The residue was purified by subjecting to silica-gel column-chromatography [eluent:chloroform] to give 14.71 g of 4-sec-butyl-2-nitrophenol.

reactant | water | 50 ml | O | H2O
reactant | 4-sec-butylphenol | 10.0 g | C(C)(CC)C1=CC=C(C=C1)O | C10H14O
reactant | nitric acid | 7.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-sec-butyl-2-nitrophenol | 14.71 g | C(C)(CC)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C10H13NO3
